US07981903B2
A solution of 1-[3-(methyloxy)-4-nitrophenyl]-4-(2-methylpropyl)piperazine (1.7 g, 5.82 mmol), FeCl3 (0.280 g, 1.75 mmol), activated carbon (2.0 g), and hydrazine hydrate (2.23 mL, 70 mmol) was heated in methanol (50 mL) for 3 hours. The mixture was filtered over celite and concentrated to give 2-(methyloxy)-4-[4-(2-methylpropyl)-1-piperazinyl]aniline as a white solid (1.24 g, 4.80 mmol, 83% yield). 1H NMR (400 MHz, CDCl3) δ ppm 0.94 (d, J=6.22 Hz, 6 H), 1.85 (s, 1 H), 2.20 (s, 2 H), 2.61 H), 3.10 (s, 4 H), 3.54 (s, 2 H), 3.83 (s, 3 H), 6.43 (m, 1 H), 6.52 (d, J=1.83 Hz, 1 H), 6.64 (d, J=8.42 Hz, 1 H).

reactant | 1-[3-(methyloxy)-4-nitrophenyl]-4-(2-methylpropyl)piperazine | 5.82 mmol, 1.7 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)CC(C)C | C15H23N3O3
reactant | hydrazine hydrate | 70 mmol, 2.23 mL | O.NN
solvent | methanol | 50 mL | CO | CH4O
product | 2-(methyloxy)-4-[4-(2-methylpropyl)-1-piperazinyl]aniline | 4.80 mmol, 1.24 g, 83% yield | COC1=C(N)C=CC(=C1)N1CCN(CC1)CC(C)C | C15H25N3O
